US06956129B2
4,6-Difluoroindan-1-one (Not According to the Invention)
Thionyl chloride (54.6 g) was added dropwise at 40° C. to a solution of 3-(2,4-di-fluorophenyl)propionic acid (57 g) in methylene chloride (200 ml). After reaction was complete, excess thionyl chloride and the solvent were removed by distillation. The oily residue was added dropwise at 40° C. to a suspension of aluminium chloride (88.5 g) in methylene chloride (200 ml). The reaction mixture was added to dilute hydrochloric acid after 18 hours at 40° C. The aqueous phase was separated off and extracted once with methylene chloride (250 ml). The combined organic phases were freed from the solvent and then distilled in vacuo. 41 g of a colorless solid were obtained (m.p.: 103° C.).

reactant | Thionyl chloride | 54.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2,4-di-fluorophenyl)propionic acid | 57 g | FC1=C(C=CC(=C1)F)CCC(=O)O | C9H8F2O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4,6-Difluoroindan-1-one | 41 g | FC1=C2CCC(C2=CC(=C1)F)=O | C9H6F2O
